US07612067B2
Preparation of 3-(3,4-dimethyl-5-thiazol-2-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a −78° C. solution of 3-(5-bromo-3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.10 g, 0.25 mmol) and THF (1 mL) is added 1.6 M n-BuLi (0.16 mL). The solution is stirred for 45 minutes and 0.5 M ZnCl2 in THF (0.52 mL, 0.26 mmol) is added. The solution is warmed to ambient temperature and stirred for 30 minutes. 2-Bromo-thiazole (0.044 mL, 0.49 mmol), and PdCl2(dppf) (0.009 g, 0.012 mmol) are added and the solution heated at 65° C. overnight, diluted with EtOAc (25 mL), washed with sat. NH4Cl (20 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient), furnish the title compound (6.1 mg, 0.015 mmol, 6%). 1H NMR (CDCl3), δ 0.87 (t, J=7.5 Hz, 6H), 1.74-1.92 (m, 4H), 2.07 (s, 3H), 2.49 (s, 3H), 2.51 (s, 3H), 2.53 (s, 3H), 3.29-3.39 (m, 1H), 6.68 (s, 1H), 7.35 (d, J=3.1 Hz, 1H), 7.86 (d, J=3.1 Hz, 1H). LC/MS (m/z): calcd. for C22H26N4S2 (M+H)+: 411.6; found: 411.2.

reactant | 3-(5-bromo-3,4-dimethyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.25 mmol, 0.10 g | BrC1=C(C(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C)C | C19H24BrN3S
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | n-BuLi | 1.6 M, 0.16 mL | [Li]CCCC
reactant | THF | 0.26 mmol, 0.52 mL | C1CCOC1 | C4H8O
reactant | 2-Bromo-thiazole | 0.49 mmol, 0.044 mL | BrC=1SC=CN1 | C3H2BrNS
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | ZnCl2 | 0.5 M | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.012 mmol, 0.009 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3,4-dimethyl-5-thiazol-2-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.015 mmol, 6.1 mg, 6% | CC1=C(SC(=C1C)C=1SC=CN1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C22H26N4S2
